US08283364B2
Stage 4 Preparation of 1-(tetrahydro-2H-pyran-4-yl)-4-piperidinamine, dihydrochloride
To a solution of 1,1-dimethylethyl 4-piperidinylcarbamate (50 g) was added tetrahydro-4H-pyran-4-one (35.75 g) in dry DCM (1000 ml), then was added sodium triacetoxyborohydride (141 g) portion wise over 10 minutes at about 25° C. The mixture was stirred under nitrogen for about 30 hours, then cooled to 0° C. Water (107 ml) was added portion wise in 20 minutes, followed by saturated aqueous potassium carbonate (178 ml) and saturated brine (178 g in 178 ml). The mixture was stirred for 10 minutes at about 25° C., then the layers were separated and the organic layer washed with saturated brine (3×214 ml). After drying over anhydrous sodium sulphate, the organic layer was concentrated and the residue was treated with 100 ml isopropanol and reconcentrated. The residue was slowly heated to reflux with 11% HCl in isopropanol (200 ml) for 2 hours then cooled to about 25° C. The solid was filtered, and slurry washed with diethyl ether (100 ml), then dried under high vacuum to give the title product (43 g).

reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 50 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | tetrahydro-4H-pyran-4-one | 35.75 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 141 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 178 ml | C([O-])([O-])=O.[K+].[K+]
reactant | DCM | 1000 ml | C(Cl)Cl | CH2Cl2
solvent | brine | 178 ml, 178 g | [Cl-].[Na+].O
solvent | Water | 107 ml | O | H2O
product | 1-(tetrahydro-2H-pyran-4-yl)-4-piperidinamine, dihydrochloride | 43 g | Cl.Cl.O1CCC(CC1)N1CCC(CC1)N | InChI=1S/C10H20N2O.2ClH/c11-9-1-5-12(6-2-9)10-3-7-13-8-4-10;;/h9-10H,1-8,11H2;2*1H
